*SSH circuit netlist with N = 20 

*sources
I1 1 10 AC 20

*capacitors
Cb1 1 0  1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C1 1 2 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C2 2 3 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C3 3 4 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C4 4 5 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C5 5 6 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C6 6 7 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C7 7 8 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C8 8 9 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C9 9 10 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C10 10 11 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C11 11 12 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C12 12 13 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C13 13 14 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C14 14 15 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C15 15 16 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C16 16 17 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C17 17 18 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C18 18 19 1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
C19 19 20 1e-07 Rser=0 Lser=0 Rpar=0 Cpar=0
Cb2 20  0  1.6666666666666668e-07 Rser=0 Lser=0 Rpar=0 Cpar=0

 *inductors
L1 1 0 1e-05 Rser=0 Rpar=0 Cpar=0
L2 2 0 1e-05 Rser=0 Rpar=0 Cpar=0
L3 3 0 1e-05 Rser=0 Rpar=0 Cpar=0
L4 4 0 1e-05 Rser=0 Rpar=0 Cpar=0
L5 5 0 1e-05 Rser=0 Rpar=0 Cpar=0
L6 6 0 1e-05 Rser=0 Rpar=0 Cpar=0
L7 7 0 1e-05 Rser=0 Rpar=0 Cpar=0
L8 8 0 1e-05 Rser=0 Rpar=0 Cpar=0
L9 9 0 1e-05 Rser=0 Rpar=0 Cpar=0
L10 10 0 1e-05 Rser=0 Rpar=0 Cpar=0
L11 11 0 1e-05 Rser=0 Rpar=0 Cpar=0
L12 12 0 1e-05 Rser=0 Rpar=0 Cpar=0
L13 13 0 1e-05 Rser=0 Rpar=0 Cpar=0
L14 14 0 1e-05 Rser=0 Rpar=0 Cpar=0
L15 15 0 1e-05 Rser=0 Rpar=0 Cpar=0
L16 16 0 1e-05 Rser=0 Rpar=0 Cpar=0
L17 17 0 1e-05 Rser=0 Rpar=0 Cpar=0
L18 18 0 1e-05 Rser=0 Rpar=0 Cpar=0
L19 19 0 1e-05 Rser=0 Rpar=0 Cpar=0
L20 20 0 1e-05 Rser=0 Rpar=0 Cpar=0

*Directive
 .AC lin 220000 77969.68012336762 116954.52018505141
 * directive 
.end
